US07320995B2
1-isopropylsulfonyl-2-amino-6-(1-(4-aminocyclohex-1-yl)-4-(phenyl)-imidazol-5-yl)-benzimidazole hydrochloride
Stir a solution of 1-isopropylsulfonyl-2-amino-6-(1-(4-(N-[tert-butoxycarbonyl]amino)cyclohex-1-yl)-4-(phenyl)-imidazol-5-yl)-benzimidazole (0.14 g, 0.2 mmol) in 1 M hydrogen chloride in acetic acid (5 mL) at room temperature for 1 hour. Filter the suspension and dry the solid to provide 0.017 g (15%) of the title compound. MS(ES+): m/z=479.0 (M+H)+

reactant | 1-isopropylsulfonyl-2-amino-6-(1-(4-(N-[tert-butoxycarbonyl]amino)cyclohex-1-yl)-4-(phenyl)-imidazol-5-yl)-benzimidazole | 0.2 mmol, 0.14 g | C(C)(C)S(=O)(=O)N1C(=NC2=C1C=C(C=C2)C2=C(N=CN2C2CCC(CC2)NC(=O)OC(C)(C)C)C2=CC=CC=C2)N | C30H38N6O4S
reactant | hydrogen chloride | 1 M | Cl | ClH
solvent | acetic acid | 5 mL | C(C)(=O)O | C2H4O2
product | 1-isopropylsulfonyl-2-amino-6-(1-(4-aminocyclohex-1-yl)-4-(phenyl)-imidazol-5-yl)-benzimidazole hydrochloride | 0.017 g, 15% | Cl.C(C)(C)S(=O)(=O)N1C(=NC2=C1C=C(C=C2)C2=C(N=CN2C2CCC(CC2)N)C2=CC=CC=C2)N | InChI=1S/C25H30N6O2S.ClH/c1-16(2)34(32,33)31-22-14-18(8-13-21(22)29-25(31)27)24-23(17-6-4-3-5-7-17)28-15-30(24)20-11-9-19(26)10-12-20;/h3-8,13-16,19-20H,9-12,26H2,1-2H3,(H2,27,29);1H
